US06787550B1
4-(5,6-Dichloro-1H-indol-2-yl)-3-hydroxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)-benzamide
A mixture of 4-(5,6-dichloro-1H-indol-2-yl)-3-benzyloxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)-benzamide (0.08 g, 0.145 mmol), prepared as described in Example 2, in 37% HCl (5 ml) and EtOH (5 ml) was refluxed for 3 h. After cooling the solvent was removed under vacuum. The resulting solid was purified by column chromatography over silica gel (CH2Cl2/MeOH/NH4OH 86:10:0.6) to yield, after trituration with CH3CN, 0.02 g (yield 39%) of the title compound as a white solid, mp>270° C.

reactant | 4-(5,6-dichloro-1H-indol-2-yl)-3-benzyloxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)-benzamide | 0.145 mmol, 0.08 g | ClC=1C=C2C=C(NC2=CC1Cl)C1=C(C=C(C(=O)NC2CC(NC(C2)(C)C)(C)C)C=C1)OCC1=CC=CC=C1 | C31H33Cl2N3O2
reactant | EtOH | 5 ml | CCO | C2H6O
reactant | CH3CN | CC#N | C2H3N
solvent | HCl | 5 ml | Cl | ClH
product | 4-(5,6-Dichloro-1H-indol-2-yl)-3-hydroxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)-benzamide | 0.02 g, yield 39% | ClC=1C=C2C=C(NC2=CC1Cl)C1=C(C=C(C(=O)NC2CC(NC(C2)(C)C)(C)C)C=C1)O | C24H27Cl2N3O2
